US08138181B2
Step 1C: Preparation of 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine:
A mixture of 4-(2-methoxyethoxy)pyridin-2-amine (20.0 g, 119 mmol), 2-chloroacetaldehyde (32.2 ml, 250 mmol) and tetrahydrofuran (100 mL) were heated in a sealed tube to 75° C. over 3 days. The reaction mixture was concentrated under reduced pressure and dissolved in ethyl acetate. The resulting solution was washed twice sodium bicarbonate. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to yield title compound (23.5 g, quantitative yield) MS APCI (+) m/z 193 (M+1) detected.

reactant | 4-(2-methoxyethoxy)pyridin-2-amine | 119 mmol, 20.0 g | COCCOC1=CC(=NC=C1)N | C8H12N2O2
reactant | 2-chloroacetaldehyde | 250 mmol, 32.2 ml | ClCC=O | C2H3ClO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine | 23.5 g, quantitative yield | COCCOC1=CC=2N(C=C1)C=CN2 | C10H12N2O2
